US04898874
7-Methyl-3-phenyl-2,1-benzisoxazole
A solution of 8.4 g (0.04 mole) of 3-methyl-2-aminobenzophenone, 150 ml of acetic acid and 40 ml of 30% hydrogen peroxide was allowed to stand at ambient temperature for 3 days and the resulting solution was poured into 800 ml of ice-water mixture. The solid which precipitated was collected by filtration, washed with water and dried. This solid was recrystallized twice from isopropanol to yield 4.1 g (49%) of tan crystals, m.p. 73°-75° C.

reactant | 3-methyl-2-aminobenzophenone | 0.04 mole, 8.4 g | CC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1)N | C14H13NO
reactant | hydrogen peroxide | 40 ml | OO | H2O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 7-Methyl-3-phenyl-2,1-benzisoxazole | 4.1 g, 49% | CC1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C14H11NO
